US09373794B2
2) Synthesis of 5-chlorobenzo[b]thiophene
In a 250 mL 2-neck round flask, 4-chlorophenyl) (2,2-diethoxyethyl)sulfane (5 g, 19 mmol) and chlorobenzene (4 mL) were poured, and then the reaction mixture was added to a polyacrylic acid (PAA) reaction solution (5 g) obtained after boiling in chlorobenzen (5 mL). After the reaction, ice water (25 mL) was added to the mixture, and the mixture was washed with brine (50 mL) and dried over Na2SO4. The mixture was subjected to column chromatography using petroleum ether to give 2.9 g of white solid (90% yield).

reactant | (2,2-diethoxyethyl)sulfane | 19 mmol, 5 g | C(C)OC(CS)OCC | C6H14O2S
reactant | chlorobenzen | 5 mL | ClC1=CC=CC=C1 | C6H5Cl
reactant | chlorobenzene | 4 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 5-chlorobenzo[b]thiophene | 2.9 g, 90% yield | ClC1=CC2=C(SC=C2)C=C1 | C8H5ClS
